US05811459
4-[3-(2-Benzyloxy-4-hydroxyphenyl)-propyl]benzoic acid
To a solution of 4-[3-(2-benzyloxy-4-methoxyphenyl)-propyl]benzoic acid (0.75 g) in DMSO (20 ml) was added sodium cyanide (0.5 g). The reaction mixture was heated at 190° C. for 40 hours, cooled, partitioned between 1N aqueous NaOH and diethyl ether. The aqueous layer was separated, acidified to pH1 (conc. HCl) and extracted with ethyl acetate. The organic solution was dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica gel eluting with diethyl ether, and crystallisation from CH2Cl2 /hexane mixtures to give the title compound (150 mg).

reactant | 4-[3-(2-benzyloxy-4-methoxyphenyl)-propyl]benzoic acid | 0.75 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)CCCC1=CC=C(C(=O)O)C=C1 | C24H24O4
reactant | sodium cyanide | 0.5 g | [C-]#N.[Na+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 4-[3-(2-Benzyloxy-4-hydroxyphenyl)-propyl]benzoic acid | 150 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)O)CCCC1=CC=C(C(=O)O)C=C1 | C23H22O4
